US08835659B2
Preparation of 4,6-dimethoxy-2-(3,4,5-trimethoxyphenyl)-1-benzofuran, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone: Yield 75% following procedure A.2; m.p. 131-132° C.; IR 2960, 1619, 1497, 1227, 1203, 1134, 1110 cm−1; 1H-NMR (500 MHz, δ ppm, CDCl3) 7.04 (s, 2H), 7.00 (s, 1H), 6.74 (s, 1H), 6.36 (d, J=1.8 Hz, 1H), 3.97 (s, 6H), 3.95 (s, 3H), 3.91 (s, 3H), 3.89 (s, 3H); 13C-NMR (126 MHz, δ ppm, CDCl3) 159.4, 156.7, 153.8, 153.7, 153.6, 138.4, 126.6, 113.5, 101.9, 98.7, 94.6, 88.5, 61.2, 56.4, 56.0, 55.8.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
product | 4,6-dimethoxy-2-(3,4,5-trimethoxyphenyl)-1-benzofuran | Yield 75% | COC1=CC(=CC2=C1C=C(O2)C2=CC(=C(C(=C2)OC)OC)OC)OC | C19H20O6
